US07319104B2
A solution of ethyl 2-[4-(2-{(5-formylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (500 mg; 0.94 mmol) in 7 ml of methanol was cooled in an ice bath and treated with sodium borohydride (65 mg; 1.7 mmol) in small portions. After 30 minutes, the reaction mixture was concentrated and the residue partitioned between ethyl acetate and saturated brine. The organic phase was washed with water and the combined aqueous phases reextracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated. Purification by radial chromatography using ethyl acetate-hexane mixtures (5–50% gradient) afforded ethyl 2-[4-(2-{[5-(hydroxymethyl)pyridin-2-yl][4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (450 mg; 85% yield).

reactant | ethyl 2-[4-(2-{(5-formylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.94 mmol, 500 mg | C(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C28H29F3N2O5
reactant | sodium borohydride | 1.7 mmol, 65 mg | [BH4-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | ethyl 2-[4-(2-{[5-(hydroxymethyl)pyridin-2-yl][4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 450 mg, 85% yield | OCC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C28H31F3N2O5
